US07855194B2
(6,7-Dimethoxy-4-piperidin-1-yl-quinazolin-2-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(6,7-dimethoxy-4-piperidin-1-yl-quinazolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.90 g, 4.03 mmol) in ethanol (10 mL) and 4 M HCl in dioxane (40 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 372.1 [M+H]+.

reactant | 4-(6,7-dimethoxy-4-piperidin-1-yl-quinazolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 4.03 mmol, 1.90 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC(=C(C=C2C(=N1)N1CCCCC1)OC)OC | C25H37N5O4
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | (6,7-Dimethoxy-4-piperidin-1-yl-quinazolin-2-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.COC=1C=C2C(=NC(=NC2=CC1OC)NC1CCNCC1)N1CCCCC1 | InChI=1S/C20H29N5O2.2ClH/c1-26-17-12-15-16(13-18(17)27-2)23-20(22-14-6-8-21-9-7-14)24-19(15)25-10-4-3-5-11-25;;/h12-14,21H,3-11H2,1-2H3,(H,22,23,24);2*1H
